US07696226B2
(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetaldehyde
To a solution of phthalimide diethylacetal (15 g) in tetrahydrofuran (THF) (30 mL) was added 10% aqueous HCl (18 mL). After heating at 75° C. for 5 hrs, the solution was allowed to cool to room temperature, and ethyl acetate was separated and dried over magnesium sulfate (MgSO4). The solution was filtered and evaporated to provide 11.2 g of the titled compound.

reactant | phthalimide diethylacetal | 15 g | C(C)OC1(C=2C(C(N1)=O)=CC=CC2)OCC | C12H15NO3
reactant | HCl | 18 mL | Cl | ClH
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetaldehyde | 11.2 g | O=C1N(C(C2=CC=CC=C12)=O)CC=O | C10H7NO3
